US06914074B2
6-(4-Hydroxyphenyl)-1-naphthol
To a 25 mL flask was added 6-(4-hydroxyphenyl)-1-tetralone (500 mg, 2.12 mmol), palladium on carbon (510 mg) and p-cymene (15 mL). The mixture was heated to reflux for 24 h, cooled, filtered through celite and extracted with 1 M NaOH (2×25 mL). The aqueous layer was then acidified, extracted with ether (3×), and passed through a silica plug. Concentration under reduced pressure afforded 260 mg (53%) product as a brown solid: mp above 200° C. (dec.); 1H NMR (300 MHz, DMSO-d6) δ 6.82 (1H, d, J=7.5 Hz), 6.87 (2H, d, J=8.1 Hz), 7.29 (1H, t, J=7.5 Hz), 7.38 (1H, d, J=7.5 Hz), 7.63 (2H, d, J=8.2 Hz), 7.70 (1H, d, J=8.5 Hz), 7.99 (1H, s) 8.14 (1H, d, J=8.5 Hz), 9.59 (1H, s), 10.09 (1H, s); MS m/z 235 (M−H+).

reactant | 6-(4-hydroxyphenyl)-1-tetralone | 2.12 mmol, 500 mg | OC1=CC=C(C=C1)C=1C=C2CCCC(C2=CC1)=O | C16H14O2
reactant | p-cymene | 15 mL | CC=1C=CC(=CC1)C(C)C | C10H14
catalyst | palladium on carbon | 510 mg | [Pd] | Pd
product | 6-(4-Hydroxyphenyl)-1-naphthol | 260 mg, 53% | OC1=CC=C(C=C1)C=1C=C2C=CC=C(C2=CC1)O | C16H12O2
